US07319102B1
Preparation of [4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidin-5-yl]-methanol (17):
To a cold (0° C.) solution of 4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester, 16, (2.0 g, 6.5 mmol) in THF (30 mL) is added dropwise lithium aluminum hydride (10.4 mL of IM solution in THF, 10.4 mmol). The reaction is stirred at 0° C. for 5 minutes, then the ice bath is removed and the mixture allowed to stir for 45 minutes at room temperature. The reaction is re-cooled to 0° C., and H2O (0.4 mL) added dropwise to the mixture. After stirring 10 min at 0° C., NaOH solution (0.4 mL of 2N solution) is added dropwise. After stirring an additional 10 min at 0° C., H2O (1.2 mL) is added to the mixture, and the mixture stirred at room temperature for 15 minutes. The resulting mixture dried (MgSO4), filtered and concentrated in vacuo. The resulting residue is purified over silica (5% MeOH//chloroform) to afford 1.0 g of the desired product: 1H NMR (300 MHz, CDCl3) δ 8.22 (s, NH), 7.89 (s, 1H), 6.22 (s, 1H), 4.72 (s, 2H), 3.68 (s, 3H), 2.47 (s, 3H), 2.26 (s, 3H); ESI+ MS: m/z (rel intensity) 266.0 (100, M++H).

reactant | 4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC=1N(N=C(C1)C)C | C13H17N5O2S
reactant | lithium aluminum hydride | 10.4 mmol, 10.4 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidin-5-yl]-methanol | 1.0 g | CN1N=C(C=C1NC1=NC(=NC=C1CO)SC)C | C11H15N5OS
